### ISSUE TITLE
`grind?+suggestions` suggests using subproofs of other theorems with module system

### ISSUE THREAD

**Issue by MoritzBeroRoos** [leanprover/lean4#13213]
### Prerequisites

* [ X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [ X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [ X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In the following `grind+suggestions` and consequently `try?` will suggest to use 
```lean4
info: Try these:
  [apply] grind only [lemma_with_subproof._proof_1_1]
  [apply] grind => instantiate only [lemma_with_subproof._proof_1_1]
```

```lean4
module -- leaving out module will produce a `[apply] grind => sorry` at the `grind`+suggestions` instead (as expected)
public import Lean.LibrarySuggestions.Default

inductive Leq : Nat → Nat → Prop where
  | refl : Leq n n
  | step : Leq n m → Leq n (m + 1)

theorem lemma_with_subproof : Leq 2 0 → Leq 3 0  := by
  have : True := by solve_by_elim
  intro h2_0
  have : False := by
    have : Leq 1 0 := by
      cases h2_0
    grind [Leq]
  exact False.elim this

/-- info: lemma_with_subproof._proof_1_1 (this : Leq 1 0) : False -/
#guard_msgs in
#check lemma_with_subproof._proof_1_1



/--
info: Try these:
  [apply] grind only [lemma_with_subproof._proof_1_1]
  [apply] grind => instantiate only [lemma_with_subproof._proof_1_1]
-/
#guard_msgs in
theorem l : Leq 1 0 → False := by
  intro h
  grind?+suggestions



/--
info: Lean 4.29.0
Target: x86_64-unknown-linux-gnu
-/
#guard_msgs in
#version
```

I have also similarily seen `mytheorem._simp_1_5` be suggested

### Context

Also see https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/Proof-dependant.20grind.20proofs/with/582789828

Having proofs depend on subproofs of other theorems is very brittle and should not be suggested.
Sometimes the used subproofs are trivial but `try?` is content with what it found, shortcuircits and doesn't find the otherwise trivial (non-brittle) proof.

However sometimes the used subproofs are also interesting as they might suggest that a lemma is missing.
It is much more important that these subproofs aren't suggested if a better proof can be found by trying a bit longer, but in the case this fails it would be interesting to report something like

```lean4
try? found the following bad (proof dependent) proof:
....
It is using the subproofs:
...
Maybe one of these is an interesting lemma you are missing?
```

### Versions

Lean 4.29.0

### Additional Information

[Additional information, configuration or data that might be necessary to reproduce the issue]

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
NB: `grind? [Leq]` would work here (and should probably work with `try?`)
